US08293715B2
Synthesis of 3-[1-hydroxy-1-(4-methylphenyl)ethyl]phenol
By using 3′-hydroxyacetophenone (200 mg) and a 1 M solution of p-tolylmagnesium bromide in tetrahydrofuran (4.4 ml) as starting materials, the title compound (346.8 mg) was obtained in the same manner as that of Reference Example 69.

reactant | 3′-hydroxyacetophenone | 200 mg | OC=1C=C(C=CC1)C(C)=O | C8H8O2
reactant | p-tolylmagnesium bromide | C1(=CC=C(C=C1)[Mg]Br)C
solvent | tetrahydrofuran | 4.4 ml | O1CCCC1 | C4H8O
product | 3-[1-hydroxy-1-(4-methylphenyl)ethyl]phenol | 346.8 mg | OC(C)(C1=CC=C(C=C1)C)C=1C=C(C=CC1)O | C15H16O2
